US04889869
(d) 3(S)-benzyloxycarbonylamino-4-cyclohexyl-1-iodobutane-2(R,S)-ol
42.3 g of (1(S)-benzyloxycarbonylamino-2-cyclohexyl-ethyl)-oxirane are taken up in 200 ml of acetonitrile and the resulting solution is cooled to 0°. After the addition of 20.9 g of sodium iodide, there are added dropwise at 0°, over a period of 30 minutes, 17.7 ml of trimethylchlorosilane. The mixture is stirred at 0°-3° for 40 minutes and then poured onto 700 ml of ice-cold water. The aqueous mixture is extracted with ether, and the organic phase is washed with 750 ml of 5% aqueous sodium thiosulphate solution and 750 ml of saturated, aqueous sodium chloride solution. After drying over sodium sulphate and concentrating by evaporation, an oily mixture of the title compound is obtained which is further processed directly.

reactant | (1(S)-benzyloxycarbonylamino-2-cyclohexyl-ethyl)-oxirane | 42.3 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1CCCCC1)C1OC1 | C18H25NO3
reactant | sodium iodide | 20.9 g | [I-].[Na+]
reactant | trimethylchlorosilane | 17.7 ml | C[Si](Cl)(C)C | C3H9ClSi
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 3(S)-benzyloxycarbonylamino-4-cyclohexyl-1-iodobutane-2(R,S)-ol | C(C1=CC=CC=C1)OC(=O)N[C@H](C(CI)O)CC1CCCCC1 | C18H26INO3
